US08044236B2
(1) Preparation of 2-[4-(tert-butyl)benzyloxy]phenylacetic acid
A mixture of 4-(tert-butyl)benzyl bromide (2.240 g, 9.861 mmol), 2-hydroxyphenylacetic acid (1.00 g, 6.572 mmol), potassium carbonate (3.996 g, 28.918 mmol), chloroform (6 ml) and methanol (6 ml) was refluxed for 2 hours. The reaction mixture was cooled to room temperature, diluted with water, and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over anhydrous sodium sulfate. The residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (1.007 g, 51.4%) as a white solid.

reactant | 4-(tert-butyl)benzyl bromide | 9.861 mmol, 2.240 g | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | 2-hydroxyphenylacetic acid | 6.572 mmol, 1.00 g | OC1=C(C=CC=C1)CC(=O)O | C8H8O3
reactant | potassium carbonate | 28.918 mmol, 3.996 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroform | 6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | methanol | 6 ml | CO | CH4O
product | 2-[4-(tert-butyl)benzyloxy]phenylacetic acid | 1.007 g, 51.4% | C(C)(C)(C)C1=CC=C(COC2=C(C=CC=C2)CC(=O)O)C=C1 | C19H22O3
